US05817751
2-[5-Benzyl-3,6-dioxo-1-propyl-(2S, 5S)-perhydro-2-pyrazinyl]acetic acid (1)
Hydroxymethyl PAM resin was coupled with FmocAsp(OtBu)-OH (Mukaiyama conditions) and reductively alkylated with propionaldehyde. BocPhe was coupled with HOAt/DIC and after Boc-deprotection the DKP formed in 1% HOAc/toluene (12 h). Yield: 45 mg (22%). 1H-NMR (400 MHz, CDCl3):δ=0.89 (t,J=7.3 Hz, 3 H), 1.45-1.49 (m,1 H), 1.65-1.69 (m, 1 H), 1.92 (dd, J=6.5, 16.7 Hz, 1 H), 2.10 (dd, J=3.6, 16.7 Hz, 1 H), 2.86-2.93 (m, 1 H), 3.11 (dd, J=3.6, 13.5 Hz, 1 H), 3.24 (dd, J=6.4, 13.5 Hz, 1 H), 3.59-3.67 (m, 1 H), 4.25 (m, 1 H), 4.36 (m, 1 H), 5.41 (broad s, 1 H), 7.16-7.18 (m, 2 H), 7.30-7.34 (m, 2 H), 7.50-7.54 (m, 1 H). 13 C-NMR (101 MHz, CDCl3):δ=11.1, 19.9, 36.9, 40.3, 46.6, 55.8, 56.5, 127.7, 128.9, 130.2, 134.9, 164.9, 168.3, 173.5. Anal. Calcd. for C16H20N2O4.1.5 H2O:C,57.99; H, 7.00; N, 8.45, found: C, 57.45; H,6.35; N, 8.91

reactant | FmocAsp(OtBu)-OH | N([C@@H](CC(OC(C)(C)C)=O)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C23H25NO6
reactant | propionaldehyde | C(CC)=O | C3H6O
reactant | BocPhe | N([C@@H](CC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C14H19NO4
reactant | HOAt DIC | C1=CC2=C(N=C1)N(N=N2)O.CC(N=C=NC(C)C)C
solvent | HOAc toluene | CC(=O)O.C1(=CC=CC=C1)C
solvent | H2O | O | H2O
product | 2-[5-Benzyl-3,6-dioxo-1-propyl-(2S, 5S)-perhydro-2-pyrazinyl]acetic acid | C(C1=CC=CC=C1)[C@@H]1NC([C@@H](N(C1=O)CCC)CC(=O)O)=O | C16H20N2O4
